datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1CCC[C:11](=[CH2:10])CCC1.C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25]>>C[C:21]([CH:20]([CH2:10][C+:11]1CCCCCCC1)[C:31](=[O:32])[N:33](C)C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CC(O)C[NH2:10].C[N+:21](C1=CC=CC=C1)=[CH2:20]>>CC(O)C[NH2+:10][CH2:20][N:21](C)C1=CC=CC=C1 10=20;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N3CCOCC3)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1.[O+]#C[Re-5:11](C#[O+])(C#[O+])(C#[O+])(C#[O+])[H:10]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21](C[N+]2=CC=C(N3CCOCC3)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1.[O+]#C[Re-4:11](C#[O+])(C#[O+])(C#[O+])C#[O+] 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:33][C:22]([C:21](C)=[CH2:20])=[O:23].C[S:11](C)=[CH:10][C:61](C1=CC=CC=C1)=[O:62]>>CC[O:33][C:22](=[C:21](C)[CH2:20][CH:10]([S+:11](C)C)[C:61](C1=CC=CC=C1)=[O:62])[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C1C[N:12]2CC[S:62][C:11]2=[N:10]1.CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2CC[N+:12]3=[C:11]2[S:62]CC3)[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33].[H][C@@]1([C@H](O)[C:63]2=[CH:62][CH:61]=[N:10][C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].[H][C@@]1([C@H](O)[C:63]2=[CH:62][CH:61]=[N+:10]([S:20]C(F)(F)F)[C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C 10=20;20,21=21,22;22,23=23"
"CC12C3(C)C4(C)C5(C)C1(C)[Mo-3:11]2345(C#[O+])(C#[O+])(C#[O+])[H:10].[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C[CH:20]1C2C3C54>>CC12C3(C)C4(C)C5(C)C1(C)[Mo-2:11]2345(C#[O+])(C#[O+])C#[O+].[O+]#C[Fe-3:21]123(C#[O+])(C#[O+])C4C[CH:20]([H:10])C1C2C43 10,11=10,20;20,21=21"
Br[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.C[N:10](C)[N:61]=[CH2:62]>>C[N+:10](C)([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](Br)[CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]1)[N:61]=[CH2:62] 10=20
"CC1=C[C:61]2=[C:62](C=C1)[NH:12][CH:11]=[N:10]2.CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1>>CC1=C[C:61]2=[C:62](C=C1)[NH+:12]=[CH:11][N:10]2[CH:20]([C:21]1=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]1=[O:33])[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([N:31]=[C:20]=[S:21])C=C1.[NH2:10][NH2:61]>>C1=CC=C([N:31]=[C:20]([NH2+:10][NH2:61])[S-:21])C=C1 10=20;20,21=21"
CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[N-]=[N+]=NC[C@@H]1CCC[NH:10]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([NH+:10]2CCC[C@H]2CN=[N+]=[N-])([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"ClC[N+]12CC[N+:21]([F:20])(CC1)CC2.[CH:10](=[N+:11]([O-:12])[O-:62])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:86])[CH:82]=[CH:83]1>>ClC[N+]12CC[N:21](CC1)CC2.[CH:10]([N+:11](=[O:12])[O-:62])([F:20])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:86])[CH:82]=[CH:83]1 10,11=10,20;12=11,12;20,21=21"
"[CH2:20]=[CH:21][C:22]#[N:23].[Cl-:10]>>[Cl:10][CH2:20][CH:21]=[C:22]=[N-:23] 10=20;20,21=21,22;22,23=23"
"CC[O:33][C:22]([C:21](C)=[CH2:20])=[O:23].O=C1C2=C(C=CC=C2)C(=O)N1C[C@@H]1CCC[NH:10]1>>CC[O:33][C:22](=[C:21](C)[CH2:20][NH+:10]1CCC[C@H]1CN1C(=O)C2=C(C=CC=C2)C1=O)[O-:23] 10=20;20,21=21,22;22,23=23"
"C/[C:11](=[CH:10]/[C:61](C)=[O:62])[O-:12].CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([CH:10]([C:11](C)=[O:12])[C:61](C)=[O:62])[C-:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1 10,11=10,20;12=11,12;20,21=21"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si](C)(C)[C:11](C)=[CH2:10]>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH2:10][C+:11](C)[Si](C)(C)C)([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
"C1=CC=C([P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)[CH:10]=[C:11]=[N-:12])C=C1.C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][C:33]3=[C:34]4N(CCC3)CCC[C:35]4=[CH:36]2)C2=CC=CC=C21>>C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([CH:10]([C:11]#[N:12])[P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:31]2=[CH:32][C:33]3=[C:34]4N(CCC3)CCC[C:35]4=[CH:36]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
